US08912224B2
c) 2-(3-Hydroxy-3-pyrazin-2-yl-propyl)-4-methoxy-phenol
A solution of 2,2,6,6-tetramethyl-piperidine (8.5 ml, 50.4 mmol) in 200 ml of anhydrous tetrahydrofuran was cooled to −30° C., n-butyllithium (20 ml of a 2.5 M solution in hexane, 50 mmol) was added dropwise, and the mixture stirred for 30 min at 0° C. After cooling at −70° C., a solution of pyrazine (4.0 g, 49.9 mmol) in 50 ml of anhydrous tetrahydrofuran was added dropwise. After 10 min at −70° C., 6-methoxy-chroman-2-ol (1.8 g, 10.0 mmol) was added and stirring was continued at −70° C. for 1.5 h. The reaction mixture was quenched with 20 ml of water and hydrochloric acid added until pH 5-6 was reached. After extraction with ethyl acetate, the organic layer was washed with water and brine, dried with sodium sulfate and concentrated. The obtained crude orange oil (960 mg) was used without further purification.

reactant | 2,2,6,6-tetramethyl-piperidine | 50.4 mmol, 8.5 ml | CC1(NC(CCC1)(C)C)C | C9H19N
reactant | n-butyllithium | C(CCC)[Li]
reactant | pyrazine | 49.9 mmol, 4.0 g | N1=CC=NC=C1 | C4H4N2
reactant | 6-methoxy-chroman-2-ol | 10.0 mmol, 1.8 g | COC=1C=C2CCC(OC2=CC1)O | C10H12O3
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2-(3-Hydroxy-3-pyrazin-2-yl-propyl)-4-methoxy-phenol | 960 mg | OC(CCC1=C(C=CC(=C1)OC)O)C1=NC=CN=C1 | C14H16N2O3
